US08461345B2
Preparation of tert-butyl 2,6-difluorophenylcarbamate (7)
2,6-Difluoroaniline, 6 (4.5 mL, 42 mmol, 1.0 equiv.), and Boc anhydride (11.1 g, 51 mmol, 1.2 equiv.) were mixed in THF and to this mixture was added 1M sodium hexamethyldisilazide (100 mL, 100 mmol, 2.3 equiv.) at room temperature (completeness of reaction determined by HPLC). 50 mL brine was then added, and the solution was concentrated and extracted with EtOAc (2×100 mL). The combined organics were washed with brine (1×50 mL), followed by citric acid (2×10%). The resulting solution was then dried over MgSO4, filtered and concentrated to give the title Compound, 7, as an orange solid which was used directly in the next step without additional purification. 1H NMR (500.0 MHz, CDCl3) 7.18-7.13 (m, 1H), 6.96-6.91 (m, 2H), 6.06 (s, 1H) and 1.52 (s, 9H) ppm

reactant | 2,6-Difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | Boc anhydride | 51 mmol, 11.1 g, 1.2 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hexamethyldisilazide | 100 mmol, 1M, 100 mL, 2.3 equiv. | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | tert-butyl 2,6-difluorophenylcarbamate | FC1=C(C(=CC=C1)F)NC(OC(C)(C)C)=O | C11H13F2NO2
